US08975254B2
c) 5-(2-Oxopropyl)isoxazole-3-carboxylic acid
Ethyl 5-(2-oxopropyl)isoxazole-3-carboxylate (0.65 g, 3.30 mmol) was dissolved in ethanol (10 ml). A solution of cesium carbonate (1.611 g, 4.94 mmol) in water (5 ml) was added to the reaction mixture and it was stirred for 7 h at RT. The reaction mixture was concentrated, diluted with water and pH was adjusted to 2 with citric acid. The aqueous phase was extracted with ethyl acetate, dried with Na2SO4 and evaporated to dryness afforded 0.203 g (36%) of the title compound. 1H-NMR (400 MHz; d6-DMSO): δ, 2.21 (s, 3H), 4.20 (s, 2H), 6.67 (s, 1H).

reactant | Ethyl 5-(2-oxopropyl)isoxazole-3-carboxylate | 3.30 mmol, 0.65 g | O=C(CC1=CC(=NO1)C(=O)OCC)C | C9H11NO4
reactant | cesium carbonate | 4.94 mmol, 1.611 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
product | 5-(2-Oxopropyl)isoxazole-3-carboxylic acid | 0.203 g, 36% | O=C(CC1=CC(=NO1)C(=O)O)C | C7H7NO4
